US09212168B2
(a) (2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.5 mmol) and bis(pinacolato)diboron (656 mg, 2.58 mmol) and potassium acetate (362 mg, 3.69 mmol) was added degassed toluene (5.77 mL). The reaction mixture was sparged with nitrogen for 15 min and 1,1′-bis(diphenylphosphino)ferrocene-palladium(ii)dichloride dichloromethane (60.3 mg, 0.074 mmol) was added and the reaction mixture was stirred, purged with nitrogen, and heated to 90° C. for 3 h to provide the title intermediate.

reactant | (2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.5 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)Br | C19H24BrN3O2
reactant | bis(pinacolato)diboron | 2.58 mmol, 656 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.69 mmol, 362 mg | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(ii)dichloride dichloromethane | 0.074 mmol, 60.3 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H36BN3O4
